US06984646B2
20.0 g (0.159 mol) of 3-Methyl-1,2-cyclohexanedione and 183.31 g (2.38 mol) of ammoniumacetate are dissolved in 760 ml DMSO. A solution of 27.94 g (0.34 mol) acetaldehyde dissolved in 40 ml DMSO is dropped to the reaction mixture. The reaction is heated for 20 minutes to 40° C., 20 minutes to 60° C. and 40 minutes to 80° C. The reaction is allowed to cool down to rt. 2.5 l saturated sodium chloride solution and ammonia are added to reach a pH of 8-9. The solution is extracted with ethyl acetate and the organic phases are dried over sodium sulfate. The solvent is evaporated under vacuum. The crystalls are filtrated and washed with ethyl acetate and diethyl ether to yield 10.3 g (43.3% of th.) 2,4-Dimethyl-4,5,6,7-tetrahydro-1H-benzimidazole.

reactant | 3-Methyl-1,2-cyclohexanedione | 0.159 mol, 20.0 g | CC1C(C(CCC1)=O)=O | C7H10O2
reactant | ammoniumacetate | 2.38 mol, 183.31 g | C(C)(=O)[O-].[NH4+]
reactant | acetaldehyde | 0.34 mol, 27.94 g | C(C)=O | C2H4O
reactant | sodium chloride | 2.5 l | [Cl-].[Na+]
reactant | ammonia | N | H3N
solvent | DMSO | 760 ml | CS(=O)C | C2H6OS
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
product | 2,4-Dimethyl-4,5,6,7-tetrahydro-1H-benzimidazole | 10.3 g, 43.3% | CC1=NC2=C(N1)CCCC2C | C9H14N2
